US07393868B2
Propane-2-sulfonic acid [4-(3′,5′-difluoro-4′-hydroxy-biphenyl-4-yl)-pyridin-3-yl]-amide
Dissolve 2,2-Dimethyl-propionic acid 3,5-difluoro-4′-[3-(propane-2-sulfonylamino)-pyridin-4-yl]-biphenyl-4-yl ester in THF (9 ml) and ethanol (1 ml). Add NaOH 2N (10 ml) and heat the mixture to 60° C. for 7 h. Evaporate solvents and add HCl 3N to acidify the mixture. Apply the acidic mixture to 2 g SCX cartridge. Elute the SCX cartridge with methanol (×3) to remove non-basic impurities. Elute the product with 2N ammonia in methanol to afford, after evaporation, 55.2 mg of the title compound as a yellow solid (50% yield). MS (ES−): 403.

reactant | 2,2-Dimethyl-propionic acid 3,5-difluoro-4′-[3-(propane-2-sulfonylamino)-pyridin-4-yl]-biphenyl-4-yl ester | FC=1C=C(C=C(C1OC(C(C)(C)C)=O)F)C1=CC=C(C=C1)C1=C(C=NC=C1)NS(=O)(=O)C(C)C | C25H26F2N2O4S
reactant | NaOH | 2N, 10 ml | [OH-].[Na+]
reactant | HCl | 3N | Cl | ClH
solvent | THF | 9 ml | C1CCOC1 | C4H8O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | Propane-2-sulfonic acid [4-(3′,5′-difluoro-4′-hydroxy-biphenyl-4-yl)-pyridin-3-yl]-amide | 55.2 mg, 50% yield | FC=1C=C(C=C(C1O)F)C1=CC=C(C=C1)C1=C(C=NC=C1)NS(=O)(=O)C(C)C | C20H18F2N2O3S
